US08809342B2
(+/−)-5-[3-Methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carboxylic acid methyl ester (617 mg, 1.39 mmol) was dissolved in tetrahydrofuran (6 mL) and methanol (2 mL), and 1.0 M NaOH (6 mL, 6 mmol) was added. This was stirred at 50° C. for 2.5 h before cooling and bringing to pH 3 with 1 N HCl. This was extracted three times with ethyl acetate. The combined organics were dried over MgSO4 and concentrated in vacuo to give (+/−)-5-[3-methyl-1-(4′-trifluoromet hyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carboxylic acid with ethyl acetate (0.636 g) as clear foam. 1H NMR (400 MHz, DMSO-d6, δ): 8.18 (s, 2 H) 7.84-7.91 (m, 2 H) 7.75-7.81 (m, 2 H) 7.71 (d, J=8.2 Hz, 2 H) 7.55 (d, J=8.2 Hz, 2 H) 7.42 (d, J=7.8 Hz, 1 H) 4.63-4.74 (m, 1 H) 1.74-1.85 (m, 1 H) 1.67 (dt, J=13.1, 6.5 Hz, 1 H) 1.51-1.61 (m, 1 H) 0.98 (d, J=6.4 Hz, 3 H) 0.93 (d, J=6.4 Hz, 3 H); MS (M+1): 430.3.

reactant | (+/−)-5-[3-Methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carboxylic acid methyl ester | 1.39 mmol, 617 mg | COC(=O)C1=NC=C(C=N1)NC(CC(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H24F3N3O2
reactant | NaOH | 6 mmol, 1.0 M, 6 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | (+/−)-5-[3-methyl-1-(4′-trifluoromet hyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carboxylic acid | CC(CC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC=1C=NC(=NC1)C(=O)O)C | C23H22F3N3O2
